US07332495B2
IV-32 N1-(4-nitrobenzyl)-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride
A mixture of N-(4-nitrobenzyl)piperazine dihydrochloride (2.94 g, 10 mmol), 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one (3.93 g, 12 mmol) and K2CO3 (4.83 g, 35 mmol) in 50 ml of DMF was treated according to general preparation 2 to give 3.51 g of compound (IV-32), yield 65%. M+ 467.

reactant | N-(4-nitrobenzyl)piperazine dihydrochloride | 10 mmol, 2.94 g | Cl.Cl.[N+](=O)([O-])C1=CC=C(CN2CCNCC2)C=C1
reactant | 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one | 12 mmol, 3.93 g | BrC(C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC)C | C14H12BrClO2
reactant | K2CO3 | 35 mmol, 4.83 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N1-(4-nitrobenzyl)-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride | 3.51 g, yield 65% | Cl.Cl.[N+](=O)([O-])C1=CC=C(CN2CCN(CC2)C(C)C(=O)C2=CC3=CC=C(C(=C3C=C2)Cl)OC)C=C1 | InChI=1S/C25H26ClN3O4.2ClH/c1-17(25(30)20-5-9-22-19(15-20)6-10-23(33-2)24(22)26)28-13-11-27(12-14-28)16-18-3-7-21(8-4-18)29(31)32;;/h3-10,15,17H,11-14,16H2,1-2H3;2*1H
